US08029919B2
10-Phenyl-3-(2-{4′-[2-(10-phenylphenothiazin-3-yl)vinyl]biphenyl-4-yl}vinyl)phenothiazine
2.73 g (24.1 mmol) of potassium tert-butoxide and then 7.80 g (25.7 mmol) of 10-phenylphenothiazine-3-carbaldehyde were added under nitrogen at room temperature with stirring to a solution of 4.83 g (10.7 mmol) of diethyl[4′-(diethoxyphosphorylmethyl)biphenyl-4-ylmethyl]phosphonate in 80 ml of dimethyl sulfoxide dried over molecular sieve. After stirring at room temperature for four hours, the reaction solution was diluted with 200 ml of methanol and stirred for a further 15 min. The precipitate was filtered off, washed with 500 ml of methanol and dried at 35° C. under reduced pressure. The crude product (5.85 g) was recrystallized in 400 ml of toluene. 3.85 g of yellow solid having a melting point of 278-290° C. were obtained.

reactant | potassium tert-butoxide | 24.1 mmol, 2.73 g | CC(C)([O-])C.[K+]
reactant | 10-phenylphenothiazine-3-carbaldehyde | 25.7 mmol, 7.80 g | C1(=CC=CC=C1)N1C2=CC=CC=C2SC=2C=C(C=CC12)C=O | C19H13NOS
reactant | diethyl[4′-(diethoxyphosphorylmethyl)biphenyl-4-ylmethyl]phosphonate | 10.7 mmol, 4.83 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)CP(=O)(OCC)OCC | C22H32O6P2
solvent | dimethyl sulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 10-Phenyl-3-(2-{4′-[2-(10-phenylphenothiazin-3-yl)vinyl]biphenyl-4-yl}vinyl)phenothiazine | C1(=CC=CC=C1)N1C2=CC=CC=C2SC=2C=C(C=CC12)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C=CC=1C=CC=2N(C3=CC=CC=C3SC2C1)C1=CC=CC=C1 | C52H36N2S2
